US06288082B1
A solution of 400 mg (1.44 mM) of 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile, 227 mg (1.54 mM) of 6-Amino-1-Indanone and 161 mg (1.44 mM) of pyridine hydrochloride in 12 ml of 2-methoxyethanol was refluxed for 3 hours. To the warm solution was added 1 ml of 1M sodium carbonate and the sample was heated for 5 minutes at 100° C., then poured into 300 ml of ice water. The solid was collected, washed with water followed by ether and dried under vacuum at 80° C. to yield 483 mg of 6,7-Diethoxy-4-(1-oxo-indan-5-ylamino)-quinoline-3-carbonitrile as a white solid: mass spectrum (electrospray, m/e): M+H 388.0, mp=Decomposed at 263° C.

reactant | 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile | 1.44 mM, 400 mg | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 6-Amino-1-Indanone | 1.54 mM, 227 mg | NC1=CC=C2CCC(C2=C1)=O | C9H9NO
reactant | pyridine hydrochloride | 1.44 mM, 161 mg | Cl.N1=CC=CC=C1
reactant | sodium carbonate | 1M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-methoxyethanol | 12 ml | COCCO | C3H8O2
product | 6,7-Diethoxy-4-(1-oxo-indan-5-ylamino)-quinoline-3-carbonitrile | 483 mg | C(C)OC=1C=C2C(=C(C=NC2=CC1OCC)C#N)NC=1C=C2CCC(C2=CC1)=O | C23H21N3O3
